US05773530
To a solution of 3-[2-(1-tert-butoxycarbonyl-4-oxopiperidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (500 mg) in dichloromethane (10 ml) was added trifluoroacetic acid (5 ml) at room temperature, and stirred for 2 hours. Solvent was evaporated and removed by toluene azeotrope to give residue, which was chromatographed on silica gel eluting in turn with 5% and 10% methanol in dichloromethane. Fractions containing desired product were collected and concentrated in vacuo to give residue, which was dissolved in methanol and passed through Amberlite IRA-910 (10 ml) eluting with methanol. Solvent was removed under reduced pressure to give 3-[2-(4-oxopiperidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.3 g).

reactant | 3-[2-(1-tert-butoxycarbonyl-4-oxopiperidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 500 mg | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C27H27N5O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 3-[2-(4-oxopiperidin-3-yl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.3 g | O=C1C(CNCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C22H19N5O2
